US04883815
2.00 g (0.006 mol) of 2-(4-acetamidobutyryl)-5-chlorohydrocinnamic acid and 1.09 g (0.007 mol) of 1,1'-carbonyldiimidazole are stirred at room temperature for 1.5 hours in 20 ml of tetrahydrofuran and 1.04 g (0.007 mol) of ethyl L-alaninate hydrochloride and 0.94 ml (0.007 mol) of triethylamine are then added thereto. After stirring at room temperature for 2 hours, the mixture is extracted with methylene chloride/water, dried with magnesium sulfate and the solvent is distilled in a vacuum. Chromatography on silica gel with ethyl acetate-methanol (9:1) and then on aluminum oxide with ethyl acetate and subsequent crystallization from ethyl acetate/hexane gives ethyl N-[2-(4-acetamidobutyryl)-5-chlorohydrocinnamoyl]-L-alaninate as white crystals with melting point 106°.

reactant | 2-(4-acetamidobutyryl)-5-chlorohydrocinnamic acid | 0.006 mol, 2.00 g | C(C)(=O)NCCCC(=O)C1=C(CCC(=O)O)C=C(C=C1)Cl | C15H18ClNO4
reactant | 1,1'-carbonyldiimidazole | 0.007 mol, 1.09 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethyl L-alaninate hydrochloride | 0.007 mol, 1.04 g | Cl.N[C@@H](C)C(=O)OCC
reactant | triethylamine | 0.007 mol, 0.94 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | ethyl N-[2-(4-acetamidobutyryl)-5-chlorohydrocinnamoyl]-L-alaninate | C(C)(=O)NCCCC(=O)C1=C(CCC(=O)N[C@@H](C)C(=O)OCC)C=C(C=C1)Cl | C20H27ClN2O5
